********************************************************************************
********************************************************************************
* HICUM Level2 Version 2.2 model cards for testing
********************************************************************************
********************************************************************************
* 1D transistor: Isothermal Simulation and Temperature dependence
********************************************************************************
subckt hicumL2V2p2_1D c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=0.0
+ mbep=1.015 ireps=0.0 mrep=2.0 mcf=1.0 tbhrec=0.0 ibcis=1.16e-20 mbci=1.015 ibcxs=0.0
+ mbcx=1.03 ibets=0.0 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=0.0 rbx=0.0 fgeo=0.73 fdqr0=0.2 fcrbi=0.0 flcomp=1
+ fqi=1.0 re=0.0 rcx=0.0 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=1.0e-20 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=1.0e-20 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=0.0 cbcpar=0.0 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_1D
********************************************************************************
* 1D transistor: Electrothermal Simulation to test self-heating
********************************************************************************
subckt hicumL2V2p2_1D_slh c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=0.0
+ mbep=1.015 ireps=0.0 mrep=2.0 mcf=1.0 tbhrec=0.0 ibcis=1.16e-20 mbci=1.015 ibcxs=0.0
+ mbcx=1.03 ibets=0.0 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=0.0 rbx=0.0 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=0.0 rcx=0.0 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=1.0e-20 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=1.0e-20 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=0.0 cbcpar=0.0 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=1.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_1D_slh 
********************************************************************************
* 1D transistor: Isothermal Simulation with NQS Effect: future
********************************************************************************
subckt hicumL2V2p2_1D_nqs c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=0.0
+ mbep=1.015 ireps=0.0 mrep=2.0 mcf=1.0 tbhrec=0.0 ibcis=1.16e-20 mbci=1.015 ibcxs=0.0
+ mbcx=1.03 ibets=0.0 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=0.0 rbx=0.0 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=0.0 rcx=0.0 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=1.0e-20 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=1.0e-20 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=0.0 cbcpar=0.0 
+ alqf=0.225 alit=0.45 flnqs=1.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_1D_nqs
********************************************************************************
* 1D transistor: Isothermal Simulation to test collector current spreading
********************************************************************************
subckt hicumL2V2p2_1D_ccs c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=0.0
+ mbep=1.015 ireps=0.0 mrep=2.0 mcf=1.0 tbhrec=0.0 ibcis=1.16e-20 mbci=1.015 ibcxs=0.0
+ mbcx=1.03 ibets=0.0 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=0.0 rbx=0.0 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=0.0 rcx=0.0 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=1.0e-20 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=1.0e-20 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=0.0 cbcpar=0.0 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=3.765 latl=0.342 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_1D_ccs
********************************************************************************
* Internal transistor (with Itun at peripheral node): Isothermal Simulation and Temperature dependence
********************************************************************************
subckt hicumL2V2p2_i_tnp c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=0.0
+ mbep=1.015 ireps=0.0 mrep=2.0 mcf=1.0 tbhrec=0.0 ibcis=1.16e-20 mbci=1.015 ibcxs=0.0
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=0.0 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=0.0 rcx=0.0 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=1.0e-20 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=1.0e-20 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=0.0 cbcpar=0.0 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_i_tnp
********************************************************************************
* Internal transistor (with Itun at internal node): Isothermal Simulation and Temperature dependence
********************************************************************************
subckt hicumL2V2p2_i_tni c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=0.0
+ mbep=1.015 ireps=0.0 mrep=2.0 mcf=1.0 tbhrec=0.0 ibcis=1.16e-20 mbci=1.015 ibcxs=0.0
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=0.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=0.0 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=0.0 rcx=0.0 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=1.0e-20 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=1.0e-20 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=0.0 cbcpar=0.0 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_i_tni
********************************************************************************
* Complete transistor: Isothermal Simulation and Temperature dependence
********************************************************************************
subckt hicumL2V2p2_c c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=3.72e-21
+ mbep=1.015 ireps=1.0e-30 mrep=2.0 mcf=1.0 tbhrec=250.0 ibcis=1.16e-20 mbci=1.015 ibcxs=4.39e-20
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=8.83 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=12.534 rcx=9.165 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=2.07e-15 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=5.4e-15 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=1.13e-15 cbcpar=2.97e-15 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_c
********************************************************************************
* Complete transistor: Electrothermal Simulation to test self-heating
********************************************************************************
subckt hicumL2V2p2_c_slh c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=3.72e-21
+ mbep=1.015 ireps=1.0e-30 mrep=2.0 mcf=1.0 tbhrec=250.0 ibcis=1.16e-20 mbci=1.015 ibcxs=4.39e-20
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=8.83 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=12.534 rcx=9.165 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=2.07e-15 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=5.4e-15 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=1.13e-15 cbcpar=2.97e-15 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=1.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_c_slh
********************************************************************************
* Complete transistor: Isothermal Simulation with NQS Effect: future
********************************************************************************
subckt hicumL2V2p2_c_nqs c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=3.72e-21
+ mbep=1.015 ireps=1.0e-30 mrep=2.0 mcf=1.0 tbhrec=250.0 ibcis=1.16e-20 mbci=1.015 ibcxs=4.39e-20
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=8.83 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=12.534 rcx=9.165 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=2.07e-15 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=5.4e-15 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=1.13e-15 cbcpar=2.97e-15 
+ alqf=0.225 alit=0.45 flnqs=1.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_c_nqs
********************************************************************************
* Complete transistor: Isothermal Simulation to test collector current spreading
********************************************************************************
subckt hicumL2V2p2_c_ccs c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=3.72e-21
+ mbep=1.015 ireps=1.0e-30 mrep=2.0 mcf=1.0 tbhrec=250.0 ibcis=1.16e-20 mbci=1.015 ibcxs=4.39e-20
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=8.83 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=12.534 rcx=9.165 itss=0.0 msf=1.05 iscs=0.0 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=2.07e-15 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=5.4e-15 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=0.0 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=1.13e-15 cbcpar=2.97e-15 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=3.765 latl=0.342 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_c_ccs
********************************************************************************
* Complete transistor: Isothermal Simulation with substrate transistor
********************************************************************************
subckt hicumL2V2p2_c_sbt c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=3.72e-21
+ mbep=1.015 ireps=1.0e-30 mrep=2.0 mcf=1.0 tbhrec=250.0 ibcis=1.16e-20 mbci=1.015 ibcxs=4.39e-20
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=8.83 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=12.534 rcx=9.165 itss=1.0e-16 msf=1.05 iscs=1.0e-17 msc=1.0 tsf=1.05 rsu=0.0 
+ csu=0.0 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=2.07e-15 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=5.4e-15 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=3.64e-14 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=1.13e-15 cbcpar=2.97e-15 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_c_sbt
********************************************************************************
* Complete transistor: Isothermal Simulation with substrate network
********************************************************************************
subckt hicumL2V2p2_c_sbn c b e s
qhcm22 (c b e s) hic2_full c10=3.76E-32 qp0=2.78e-14 ich=2.09e-2 hfe=1.0 hfc=1.0 hjei=1.0 
+ hjci=1.0 tr=0.0 ibeis=1.16E-20 mbei=1.015 ireis=1.16e-16 mrei=2.0 ibeps=3.72e-21
+ mbep=1.015 ireps=1.0e-30 mrep=2.0 mcf=1.0 tbhrec=250.0 ibcis=1.16e-20 mbci=1.015 ibcxs=4.39e-20
+ mbcx=1.03 ibets=1.0e-20 abet=40.0 tunode=1.0 favl=1.186 qavl=11.1e-5 alfav=0.825e-4
+ alqav=0.196e-3 rbi0=71.76 rbx=8.83 fgeo=0.73 fdqr0=0.2 fcrbi=0.0  flcomp=1
+ fqi=1.0 re=12.534 rcx=9.165 itss=1.0e-16 msf=1.05 iscs=1.0e-17 msc=1.0 tsf=1.05 rsu=10.0 
+ csu=2.1e-15 cjei0=8.11e-15 vdei=0.95 zei=0.5 ajei=1.8 cjep0=2.07e-15 vdep=1.05  
+ zep=0.4 ajep=2.4 cjci0=1.16e-15 vdci=0.8 zci=0.333 vptci=46 cjcx0=5.4e-15 
+ vdcx=0.7 zcx=0.333 vptcx=100 fbcpar=0.1526 fbepar=0.5 cjs0=3.64e-14 vds=0.6 zs=0.447 
+ vpts=100 t0=4.75e-12 dt0h=2.1e-12 tbvl=4.0e-12 tef0=1.8e-12 gtfe=1.4 thcs=30.0e-12 
+ ahc=0.75 fthc=0.6 rci0=127.8 vlim=0.7 vces=0.1 vpt=5 cbepar=1.13e-15 cbcpar=2.97e-15 
+ alqf=0.225 alit=0.45 flnqs=0.0 kf=1.43e-8 af=2.0 latb=0.0 latl=0.0 vgb=1.17 
+ alt0=0.0 kt0=0.0 zetaci=1.6 alvs=1.0e-3 alces=0.4e-3 zetarbi=0.588 zetarbx=0.206 
+ zetarcx=0.223 zetare=0.0 zetacx=2.2 vge=1.1386 vgc=1.1143 vgs=1.15 f1vg=-1.02377e-4 
+ f2vg=4.3215e-4 zetact=3.5 zetabet=4.0 flsh=0.0 rth=1000.0 cth=1.0e-10 tnom=27.0 dt=0.0
ends hicumL2V2p2_c_sbn
********************************************************************************
* Complete test transistor: default
********************************************************************************
subckt hicumL2V2p2_default c b e s
qhcm22 (c b e s) hic2_full 
ends hicumL2V2p2_default
********************************************************************************